US04621084
To a solution of 7-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine (9.0 g) in chloroform (300 ml) was added portionwise bromine (11.5 g) at ambient temperature and the mixture was refluxed for 6 hours under stirring. The reaction mixture was evaporated in vacuo. To the residue was added 5% hydrochloric acid (300 ml) and the mixture was heated at 80 to 85° C. for 5 hours. The reaction mixture was filtered and the filtrate was adjusted to pH 7.5 with 20% potassium carbonate. From the resultant aqueous solution the product was extracted with a mixture of ethyl acetate and tetrahydrofuran. The organic extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel eluting with a mixture of ethyl acetate and tetrahydrofuran (8:2) and the fraction containing the desired compound was evaporated in vacuo to give 6-(3-bromo-7-methyl imidazo[1,2-a]pyridin-2-yl)- 2-methylaminobenzothiazole (1.7 g). mp. 225° C. (dec.).

reactant | 7-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine | 9.0 g | CC1=CC=2N(C=C1)C=C(N2)C2=CC=C(C=C2)NC(=S)NC | C16H16N4S
reactant | bromine | 11.5 g | BrBr | Br2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3-bromo-7-methyl imidazo[1,2-a]pyridin-2-yl)- 2-methylaminobenzothiazole | 1.7 g | BrC1=C(N=C2N1C=CC(=C2)C)C2=CC1=C(N=C(S1)NC)C=C2 | C16H13BrN4S
